US09422292B2
A mixture of (R)-8-bromo-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (292 mg, 1 mmol), 4-iodo-1-methyl-1H-pyrazole (312 mg, 1.5 mmol), copper (I) iodide (58 mg, 0.3 mmol), 1,10-phenanthroline (54 mg, 0.3 mmol) and potassium phosphate (424 mg, 2 mmol) in dimethyl sulfoxide (10 mL) was heated at 150° C. for 14 hours under nitrogen. The reaction mixture was diluted with ethyl acetate (20 mL) and washed with brine (20 mL×3). The organic phase was dried over anhydrous sodium sulfate and then filtered. The filtrate was concentrated to give (R)-8-bromo-1,4-dimethyl-6-(1-methyl-1H-pyrazol-4-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine which was used in the next step without further purification. LRMS (M+H)+: calcd 372.07. found 372.

reactant | (R)-8-bromo-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 1 mmol, 292 mg | BrC=1C=CC2=C(NC[C@H](C=3N2C(=NN3)C)C)C1 | C12H13BrN4
reactant | 4-iodo-1-methyl-1H-pyrazole | 1.5 mmol, 312 mg | IC=1C=NN(C1)C | C4H5IN2
reactant | 1,10-phenanthroline | 0.3 mmol, 54 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | potassium phosphate | 2 mmol, 424 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.3 mmol, 58 mg | [Cu]I
product | (R)-8-bromo-1,4-dimethyl-6-(1-methyl-1H-pyrazol-4-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | BrC=1C=CC2=C(N(C[C@H](C=3N2C(=NN3)C)C)C=3C=NN(C3)C)C1 | C16H17BrN6
